US09382197B2
A solution of 4-((R)-1-amino-2-methylpropyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide (0.1643 g, 0.562 mmol) and N,N-diisopropylethylamine (0.1 mL, 0.6 mmol) in DCM (2.5 mL) was cooled in an ice bath and added to a solution of Fmoc-isothiocyanate (0.173 g, 0.616 mmol) in DCM (2.5 mL, 38 mmol) cooled at 0° C. in an ice bath. The reaction solution was stirred at rt for 1 h. Piperidine (1.0 mL, 2.0 mmol, 2.0 M in MeOH) was then added and the reaction stirred at rt for an additional 2 h. The reaction was concentrated and the residue was purified by flash chromatography (EtOAc:hex, 7:3 to 1:0) to afford 4-((R)-2-methyl-1-thioureidopropyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide as a white solid. LC-MS: (FA) ES+ 352.

reactant | 4-((R)-1-amino-2-methylpropyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide | 0.562 mmol, 0.1643 g | N[C@H](C(C)C)C1=CC=C(C(=O)NOC2OCCCC2)C=C1 | C16H24N2O3
reactant | N,N-diisopropylethylamine | 0.6 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Fmoc-isothiocyanate | 0.616 mmol, 0.173 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N=C=S | C16H11NO2S
reactant | Piperidine | 2.0 mmol, 2.0 M, 1.0 mL | N1CCCCC1 | C5H11N
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 38 mmol, 2.5 mL | C(Cl)Cl | CH2Cl2
product | 4-((R)-2-methyl-1-thioureidopropyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide | CC([C@@H](NC(=S)N)C1=CC=C(C(=O)NOC2OCCCC2)C=C1)C | C17H25N3O3S
